US06599860B1
2-Methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl-sulfonylbenzoyl Chloride
3.23 g (27.2 mmol) of thionyl chloride were added dropwise to a mixture of 4.5 g (13.6 mmol) of 2-methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl-sulfonylbenzoic acid, 100 ml of toluene and three drops of N,N-dimethylformamide. The mixture was refluxed for 4 hours and then cooled, and the solvent was removed. The residue was then taken up in methylene chloride and once more concentrated to dryness. This gave 4.74 g (100% of theory) of the title compound in the form of a pale powder.

reactant | thionyl chloride | 27.2 mmol, 3.23 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl-sulfonylbenzoic acid | 13.6 mmol, 4.5 g | CC=1C(C(=O)O)=CC(C(C1C1=NOC(C1)CCl)C)=S(=O)=O | C13H14ClNO5S
catalyst | N,N-dimethylformamide | three drops | CN(C=O)C | C3H7NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl-sulfonylbenzoyl Chloride | CC=1C(C(=O)Cl)=CC(C(C1C1=NOC(C1)CCl)C)=S(=O)=O | C13H13Cl2NO4S
